Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
t-tube placement
 
Major Surgical or Invasive Procedure:
___: t-tube placement 

 
History of Present Illness:
___ ___ woman with a history of idiopathic subglottic 
stenosis status post multiple balloon dilatations, hypertension, 
type 2 diabetes, hypothyroidism recently admitted to ___ from 
___ to ___ for subglottic stenosis and pneumonia 
and found to have colorectal cancer (T3,N0,M1, KRAS negative, 
MSI intact) s/p resected liver mets on Folfox C2D1; now s/p 
t-tube placement on ___.  

Per IP and anesthesia, procedure without complication. Patient 
received 500 cc of IVF during procedure, 1 mg morphine, and 1 g 
of Tylenol.  A suture was placed to hold the t-tube in place. 

On arrival to the floor, she reports her breathing is fine. She 
has some pain around the site of the t-tube. She is able to eat 
with some discomfort, but denies choking or coughing. 

She reports feeling nauseated since her last chemo one week ago. 
She reports that her symptoms are otherwise improved. 
 
Past Medical History:
HTN
Subglottic Stenosis
Type II Diabetes
Hypoythroidism
Hyperlipidemia
 
Social History:
___
Family History:
no family history of lung disease, airway stenosis.

 
Physical Exam:
Admission Exam:
===============
Vitals:  T 97.5, BP 125/50, HR 65, RR 18, 95% on 2L nasal 
cannula
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, T-tube site clean, dry, no erythema  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, no focal deficits 

Discharge Exam:
===============
Vitals:  T 98, BP 132/55, HR 82, RR 16, 99% on 2L nasal cannula
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, T-tube capped and t-tube site with some dried 
blood, no drainage 
Lungs: diffuse wheezes on inspiration and expiration 
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, no focal deficits
 
Pertinent Results:
Admission labs:
===============
none

Imaging:
========
Chest x-ray (___): Interval removal of a conventional 
tracheostomy tube placement of a T-tube, unremarkable in 
position. Lungs are well-expanded without new focal opacity. 
Trace right pleural effusion is possible. No left pleural 
effusion. No pneumothorax. Heart size is top-normal. Bilateral 
pulmonary arteries are prominent, but unchanged. A left 
subclavian port and central venous catheter is unchanged in 
position, terminating near the superior cavoatrial junction. 

Discharge labs:
===============
___ 06:39AM BLOOD WBC-9.1 RBC-4.87 Hgb-8.7* Hct-29.4* 
MCV-60* MCH-17.9* MCHC-29.6* RDW-19.6* RDWSD-38.3 Plt ___
___ 06:39AM BLOOD Glucose-133* UreaN-14 Creat-0.6 Na-141 
K-3.4 Cl-106 HCO3-25 AnGap-13
 
Brief Hospital Course:
Ms. ___ is an ___ ___ woman with a history of 
idiopathic subglottic
stenosis status post multiple balloon dilatations, hypertension, 
type 2 diabetes, hypothyroidism recently admitted to ___ from 
___ to ___ for subglottic stenosis and pneumonia 
and found to have colorectal cancer (T3,N0,M1, KRAS negative, 
MSI intact) s/p resected liver mets on Folfox C2D1; now s/p 
t-tube
placement on ___ by IP.

# Idiopathic subglottic stenosis s/p t-tube placement: Procedure 
without complications. Was able to tolerate t-tube capped and 
able to speak and swallow with no difficulty. Bronchial washings 
showed GPR but given absence of symptoms or elevated WBC, 
decision was made not to treat. Patient was satting 93% on RA at 
time of discharge. 
 

#pain: Received acetaminophen 650 mg q6 PRN and tramadol 25 mg 
q6 PRN

Chronic issues:
# Type II DM: In the hospital, received insulin sliding scale. 
Home medication of glimepiride was held but restarted on 
discharge.
# Hypothyroidism: Continued on home Levothyroxine 25mcg daily.  
# HTN: not hypertensive in hospital and home atenolol 50mg PO 
daily was held. ___ consider d/c given her advanced and age and 
better alternative for hypertension. 

 

Transitional Issues:
===================
T-tube instructions:
1. Take Mucinex ___ by mouth twice a day (take one tablet at 
8am,
one tablet at 8 pm)
2. Please use albuterol nebulizer (2.5 mg) nebulizer twice a 
day. Please give yourself treatment at 7am and 7pm. Always use 
this medicine before you use your mucomyst. 
3. Mucomyst (N-acetylcysteine) 10% solution - you can use this
undiluted. Use 6 to 10 mL of 10% solution until nebulized given
2 times/day. Please give yourself this treatment at 7:30am and 
7:30pm (ideally, ___ minutes after you use albuterol 
nebulizer). 
4. Right after nebulizer treatment with Mucomyst, please use
___ of Saline into t-tube, then suction above and below. 
5. please clean the external opening of the t-tube with an extra
LONG q-tip in order to keep it open. 
6. Sodium bicarbonate instillation treatment for t-tubes 2 times 
a day 2 hours after albuterol and mucomyst treatment:
Supplies needed:
1. A 10 ml syringe
2. 4.2% Bicarb solution
3. Suction machine and catheters
4. Normal saline
5. Tissues

To instill the bicarb:
1. Wash and dry your hands
2. Draw up 5 ml of the bicarb
3. Uncap the T-tube
4. Slowly instill the bicarb into the T-tube in small amounts 
(be
prepared to cover the end of the T-tube with a tissue to prevent
you from coughing the bicarb out of the T-tube)
5. After the bicarb is instilled, recap the T-tube
6. Wait 15 minutes then uncap the T-tube
7. Slowly place a total of 5 ml saline drops into the T-tube and
suction the T-tube up and down as described earlier (instilling
small amounts of saline into the T-tube before each suction pass
helps rinse the T-tube of the mucus and bicarb)
8. After suctioning is complete, recap the T-tube.

This is essential for proper care of your T-tube. 

Continue to use humidified air at night. 

*** if unable to pay for mucomyst (or insurance will not cover), 
this is okay per interventional pulmonary team ****  Of note, at 
time of discharge did not appear that patient's insurance would 
cover mucomyst. The interventional pulmonary team stated that if 
she is unable to get this medicine, it is not necessary. 

*** the bicarb will be delivered to patient's home on ___, it 
is okay to start the bicarb treatment day after discharge 
(confirmed with interventional pulmonary team) ***

Please call ___ with any questions. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea  
2. Mirtazapine 15 mg PO QHS 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Pravastatin 20 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. glimepiride 1 mg oral daily 
7. Levothyroxine Sodium 25 mcg PO DAILY 
8. Calcitriol 0.25 mcg PO DAILY 
9. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
1. Calcitriol 0.25 mcg PO DAILY 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Mirtazapine 15 mg PO QHS 
4. Omeprazole 20 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Acetaminophen 650 mg PO Q6H:PRN pain  
RX *acetaminophen 325 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
7. Acetylcysteine Inhaled - For interventional pulmonary use 
only ___ mL NEB BID 
10% solution 
RX *acetylcysteine 100 mg/mL (10 %) ___ mL BID after albuterol 
Disp #*1 Vial Refills:*0
8. GuaiFENesin ER 1200 mg PO Q12H 
RX *guaifenesin 1,200 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
9. TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*10 Tablet Refills:*0
10. glimepiride 1 mg oral daily 
11. Ondansetron 8 mg PO Q8H:PRN nausea  
12. Prochlorperazine 10 mg PO Q6H:PRN nausea 
13. Atenolol 50 mg PO DAILY 
14. Syringe without Needle (syringe (disposable)) 10 mL  
miscellaneous BID 
RX *syringe (disposable) [BD Bulk ___ Non-Sterile] 10 mL 
use for saline  Disp #*1 Package Refills:*0
15. medication
4.2% sodium bicarbonate solution;
Draw up 5 mL, instill in T tube slowly 
Do this twice daily  
16. Albuterol 0.083% Neb Soln 1 NEB IH BID  
17. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
t-tube placement 
Secondary Diagnosis:
metastatic colon cancer
DM2 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking of you at ___.
Why was I here?
- You needed a t-tube placed.
What happened while I was here?
- You had a t-tube placed.
- You did well following the procedure.

What should I do when I get home?
- You can take acetaminophen for pain. For severe pain you can 
take tramadol. 
- Follow up with interventional pulmonology doctor in 6 weeks.
- Take care of your t-tube by following the directions below.

T-tube instructions:
1. Please use albuterol nebulizer (2.5 mg) twice a day. Please 
give yourself treatment at 7am and 7pm. Always use this medicine 
before you use your mucomyst. 

2. Mucomyst (N-acetylcysteine) 10% solution - you can use this
undiluted.  Use 6 to 10 mL of 10% solution until nebulized given
2 times/day.  Please give yourself this  treatment at 7:30am and 
7:30pm (ideally, ___ minutes after you use albuterol 
nebulizer). 

3. Right after nebulizer treatment with Mucomyst, please use
___ of Saline into t-tube, then suction above and below. 

4. Take Mucinex ___ by mouth twice a day (take one tablet at 
8am,
one tablet at 8 pm)

5. Please clean the external opening of the t-tube with an extra
LONG q-tip in order to keep it open. 
  
6. Sodium bicarbonate instillation treatment for t-tubes twice a 
day 2 hours after albuterol and mucomyst (9:30 AM and 9:30 ___
Supplies needed:
- A 10 ml syringe
- 4.2% Bicarb solution
- Suction machine and catheters
- Normal saline
- Tissues

To instill the bicarb:
- Wash and dry your hands
- Draw up 5 ml of the bicarb
- Uncap the T-tube
- Slowly instill the bicarb into the T-tube in small amounts (be
prepared to cover the end of the T-tube with a tissue to prevent
you from coughing the bicarb out of the T-tube)
- After the bicarb is instilled, recap the T-tube
- Wait 15 minutes then uncap the T-tube
- Slowly place a total of 5 ml saline drops into the T-tube and
suction the T-tube up and down as described earlier (instilling
small amounts of saline into the T-tube before each suction pass
helps rinse the T-tube of the mucus and bicarb)
- After suctioning is complete, recap the T-tube. 

7. Continue to use humidified air at night. 

Please call ___ with any questions. 

*** if unable to pay for mucomyst (or insurance will not cover), 
this is okay per interventional pulmonary team ****

*** the bicarb will be delivered to your house tomorrow, it is 
okay to start the bicarb treatment tomorrow ***

- Your ___ Team

 
Followup Instructions:
___